US08455488B2
Synthesis of 2-(2-((S)-3-tert-butoxy-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-N-ethyl-2-methylhydrazinecarboxamide (Compound II-132)
According to the procedure described in the synthesis method of Compound II-130, 2-(3-ethylureidooxy)acetic acid (Compound VI-13) 32 mg (0.18 mmol) was coupled with (S)-2-amino-3-tert-butoxy-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide (Compound IV-24) 65 mg (0.15 mmol) to obtain the title compound 20 mg (22%).

reactant | 2-(3-ethylureidooxy)acetic acid | 0.18 mmol, 32 mg | C(C)NC(NOCC(=O)O)=O | C5H10N2O4
reactant | (S)-2-amino-3-tert-butoxy-N—((S)-1,1-diethoxypropan-2-yl)-N-(naphthalen-1-ylmethyl)propanamide | 0.15 mmol, 65 mg | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)COC(C)(C)C | C25H38N2O4
product | 2-(2-((S)-3-tert-butoxy-1-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-N-ethyl-2-methylhydrazinecarboxamide | 20 mg, 22% | C(C)(C)(C)OC[C@@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C)NC(CN(NC(=O)NCC)C)=O | C31H49N5O6
